US06514968B1
Preparation 29 9-Benzyl-6-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one
6-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.3938 g, 0.0019 mol) is added to a slurry of pentane-washed NaH (0.0970 g, 0.0024 mol) in DMF (3 mL) and after stirring for 10 min, benzyl bromide (0.28 mL, 0.0024 mol) is added. After stirring for 4 h at room temperature, the mixture is partitioned between water and ethyl acetate. The combined organic layers are dried over sodium sulfate and concentrated to dryness. The resulting solids are chromatographed on silica gel (200 mL) using dichloromethane/heptane (60/40 to 80/20 to 100/0) to give 0.3681 g (65%) of the title compound. An aliquot is recrystallized from ethyl acetate/heptane; MS (ESI+) for C19H16FNO m/z 294.2 (M+H)+; IR (drift) 1634, 1523, 1483, 1466, 1447, 1357, 1254, 1138, 900, 868, 803, 799, 759, 729, 700 cm−1; 1H NMR (CDCl3) δ2.22, 2.59, 2.88, 5.32, 6.95, 7.01, 7.15, 7.30, 7.96. Anal. Calcd for C19H16FNO: C, 77.80; H, 5.50; N, 4.78. Found: C, 77.65; H, 5.39; N, 4.69.

reactant | 6-Fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0019 mol, 0.3938 g | FC=1C=C2C=3C(CCCC3NC2=CC1)=O | C12H10FNO
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0024 mol, 0.0970 g | [H-].[Na+]
reactant | benzyl bromide | 0.0024 mol, 0.28 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-6-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.3681 g, 65% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(CCCC12)=O)F | C19H16FNO
